Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
laparoscopic left salpingectomy and cystectomy 

 
History of Present Illness:
___ yo G1P1 with known 6 cm L adnexal cyst presents with
crampy abdominal pain x 4 days with intermittent sharp pain x 2
days. She was evaluated in the ED on ___ where torsion was 
not
identified on TVUS or CT scan. Today at 1300, she had acute 
onset
severe sharp ___ L-sided abdominal pain, worse than ___. She
took ibuprofen and oxycodone with only mild improvement. N/V x2
today. No VB, abnormal discharge, or dysuria.

In the ED, she has received 2 mg of morphine and pain is ___,
occasional sharp pain to ___.

 
Past Medical History:
POb: ___ SVD x1 c/b gDMA2
PGyn: LMP ___ condoms for birth control; no abnl Pap or 
STI
PMH: L adnexal cyst diagnosed during pregnancy
PSH: wisdom teeth

 
Social History:
no T/E/D

 
Physical Exam:
Initial:
PE: VS 99.4 133/85 95 20 100% RA
Gen: appears mildly uncomfortable, holding left side
Abd: soft, mild TTP in LLQ, no rebound or guarding
SSE: NEFT, pink vaginal mucosa, no blood in vault, normal
appearing discharge, closed appearing cervix without lesions
Bimanual: +CMT, uterus small and mobile with mild TTP, mod TTP
over L adnexa where 5cm firm mass is palpable, no TTP of right
adnexa
Ext: no edema, NT
.
Discharge:
Gen: NAD
Lungs: CTAB
CV: RRR
Abd: soft, appropriately tender, non-distended, incisions 
clean/dry/intact
Ext: NT
 
Pertinent Results:
___ 05:20PM BLOOD WBC-15.5* RBC-4.26 Hgb-12.4 Hct-36.8 
MCV-86 MCH-29.1 MCHC-33.7 RDW-13.0 RDWSD-40.4 Plt ___
___ 05:20PM BLOOD Neuts-79.9* Lymphs-12.6* Monos-6.5 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-12.41*# AbsLymp-1.95 
AbsMono-1.00* AbsEos-0.03* AbsBaso-0.04
___ 05:00PM URINE UCG-NEGATIVE
___ 05:00PM URINE Color-Straw Appear-Clear Sp ___
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-SM 
___ 05:00PM URINE RBC-0 WBC-2 Bacteri-FEW Yeast-NONE Epi-3
 
Brief Hospital Course:
On ___, Ms. ___ was admitted  and underwent a 
laparoscopic left salpingectomy and cystectomy, with removal of 
torsed paratubal cyst and proximal left fallopian tube. A 
hemoperitoneum was evident. Please see the operative report for 
full details.
Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and then oral 
medications. She progressed in the hours after surgery to be 
taking po well, ambulating and able to void.
Pain was controlled with oxycodone, ibuprofen, and Tylenol.

She was then discharged home approximately ten hours after 
surgery in stable condition with outpatient follow-up scheduled 
in 2 weeks.

 
Medications on Admission:
none
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
please take while taking narcotic pain medication such as 
oxycodone 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*2
2. Acetaminophen ___ mg PO Q6H:PRN pain 
do not take more than 4000mg per 24hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
do not drive or drink alcohol while taking this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Tubal torsion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.
* If you have staples, they will be removed at your follow-up 
visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___